US07507737B2
[5-(5-Fluoro-4-methyl-1H-benzoimidazol-2-yl)-4-methyl-pyrimidin-2-yl[-3-(1-methyl-piperidin-4-yl)-propyl]-amine
[5-(5-Fluoro-4-methyl-1 H-benzoimidazol-2-yl)-pyrimidin-2-yl]-3-(1-methyl-piperidin-4-yl)-propyl]-amine. A mixture of 4-methyl-2-[3-(1-methyl-piperidin-4-yl)-propylamino]-pyrimidin-5-yl}-methanol (0.14 g, 0.49 mmol) in toluene (3 mL) was added MnO2 (0.22 g, 2.48 mmol). After 30 min at 70° C., the mixture was filtered through diatomaceous earth. The filtrate was concentrated and immediately dissolved in DMF. A portion of this solution (corresponding to 0.05 mg, 0.17 mmol of 4-methyl-2-[3-(1-methyl-piperidin-4-yl)-propylamino]-pyrimidine-5-carbaldehyde) was then treated with 4-fluoro-3-methyl-benzene-1,2-diamine (1.1 equiv.) and Na2H2S2O5 (1.25 equiv.) at 90° C. for 12 h. The reaction mixture was purified by FCC to afford the title compound. MS: mass calcd. for C22H29FN6, 396.24; m/z found, 397.2 [M+H]+. 1H NMR (CD3OD): 8.62 (s, 1H), 7.55 (dd, J=8.0, 3.9 Hz, 1H), 7.17 (dd, J=10.3, 8.8 Hz, 1H), 3.60 (t, J=6.9 Hz, 2H), 3.10-2.99 (m, 2H), 2.71 (s, 3H), 2.66 (d, J=1.4 Hz, 3H), 2.44 (s, 3H), 2.26-2.17 (m, 2H), 1.98-1.88 (m, 2H), 1.87-1.77 (m, 2H), 1.55-1.36 (m, 5H).

reactant | methanol | 0.49 mmol, 0.14 g | CO | CH4O
reactant | 4-methyl-2-[3-(1-methyl-piperidin-4-yl)-propylamino]-pyrimidine-5-carbaldehyde | 0.17 mmol, 0.05 mg | CC1=NC(=NC=C1C=O)NCCCC1CCN(CC1)C | C15H24N4O
reactant | 4-fluoro-3-methyl-benzene-1,2-diamine | 1.1 equiv. | FC=1C(=C(C(=CC1)N)N)C | C7H9FN2
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | MnO2 | 2.48 mmol, 0.22 g | O=[Mn]=O
product | 5-(5-Fluoro-4-methyl-1H-benzoimidazol-2-yl)-4-methyl-pyrimidin-2-yl[-3-(1-methyl-piperidin-4-yl)-propyl]-amine | FC1=C(C2=C(NC(=N2)C=2C(=NC(=NC2)NCCCC2CCN(CC2)C)C)C=C1)C | C22H29FN6
